US08022223B2
Step A: Preparation of 2-nitro-3-(phenylthio)pyridine:
3-chloro-2-nitropyridine (30.6 g, 193 mmol) was dissolved in DMSO (200 mL). Benzenethiol (20.7 mL, 203 mmol) was added followed by cesium carbonate (69.3 g, 212 mmol) and stirred at ambient temperature for 1.5 hours. The solution was diluted with water (750 mL) and the solids filtered. The crude material was recrystallized from EtOAc (400 mL) and with adding hexanes (1L) to give an A-crop of 23.5 g. The filtrate was concentrated and recrystallized from EtOAc/hexanes to give 7.87 g. The solids were dried on high vacuum to provide the title compound (31.38 g, 69.8% yield).

reactant | 3-chloro-2-nitropyridine | 193 mmol, 30.6 g | ClC=1C(=NC=CC1)[N+](=O)[O-] | C5H3ClN2O2
reactant | Benzenethiol | 203 mmol, 20.7 mL | C1(=CC=CC=C1)S | C6H6S
reactant | cesium carbonate | 212 mmol, 69.3 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DMSO | 200 mL | CS(=O)C | C2H6OS
solvent | water | 750 mL | O | H2O
product | 2-nitro-3-(phenylthio)pyridine | 31.38 g, 69.8% yield | [N+](=O)([O-])C1=NC=CC=C1SC1=CC=CC=C1 | C11H8N2O2S
